US06936606B2
Furfural (1.0 equiv) is mixed with NaCN (1.1 equiv) and NH4Cl (1.1 equiv) in 2 Molar NH3/MeOH (4 equiv NH3). The flask is fitted with a reflux condenser and mixture is refluxed. At the end of each of the first 3 h an additional equivalent of NH3 in MeOH is added. The reaction mixture is cooled and the excess solids are filtered away on a frit. The filtrate is concentrated by rotary evaporation and the residue is triturated with diethyl ether and the mixture is filtered again. The filtrate is concentrated on a rotovap. The product is purified, if necessary, by flash chromatography on silica gel with EtOAc/hexanes as an eluent to yield amino-cyano-(furan-2-yl)methane.

reactant | Furfural | 1.0 equiv | C(C1=CC=CO1)=O | C5H4O2
reactant | NaCN | 1.1 equiv | [C-]#N.[Na+]
reactant | NH4Cl | 1.1 equiv | [NH4+].[Cl-]
reactant | NH3 MeOH | 2 Molar, 4 equiv | N.CO
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | amino-cyano-(furan-2-yl)methane | NC(C=1OC=CC1)C#N | C6H6N2O
